US07163941B2
Trifluoromethanesulfonic acid 6-(2-bromo-phenyl)-2-methylsulfanyl-pyrido[2,3-d]pyrimidin-7-yl ester
To a suspension of 0.43 mg 55% sodium hydride in 15 ml NMP were added 3.0 g of 6-(2-Bromo-phenyl)-2-methylsulfanyl-8H-pyrido[2,3-d]pyrimidin-7-one in portions at RT. Stirring was continued at 40° C. for 30 min, then the solution was cooled to RT and 5.85 g of N-phenyl-bis(trifluoromethanesulfonimide) were added. After 30 min stirring at RT, the solvent was evaporated and the residue purified by flash chromatography (silica, ethylacetate/hexanes) to give 3.85 g of the title product.

reactant | 6-(2-Bromo-phenyl)-2-methylsulfanyl-8H-pyrido[2,3-d]pyrimidin-7-one | 3.0 g | BrC1=C(C=CC=C1)C1=CC2=C(N=C(N=C2)SC)NC1=O | C14H10BrN3OS
reactant | N-phenyl-bis(trifluoromethanesulfonimide) | 5.85 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
solvent | NMP | 15 ml | CN1CCCC1=O | C5H9NO
catalyst | sodium hydride | 0.43 mg | [H-].[Na+]
product | Trifluoromethanesulfonic acid 6-(2-bromo-phenyl)-2-methylsulfanyl-pyrido[2,3-d]pyrimidin-7-yl ester | 3.85 g | BrC1=C(C=CC=C1)C1=CC2=C(N=C(N=C2)SC)N=C1OS(=O)(=O)C(F)(F)F | C15H9BrF3N3O3S2
